US04081595
To benzhydryl 3-chloro-7-phenylacetamido-3-cephem-4-carboxylate (1.038 g) in a mixture of acetic acid (30 ml) and methylene chloride (10 ml) one adds activated zinc powder (3.9 g), stirs at room temperature for 1 hour, filters, dilutes with water, extracts with methylene chloride, washes with water, dries, concentrates, and crystallizes from ether to give benzhydryl 7-phenylacetamido-3-cephem-4-carboxylate (865 mg), m.p. 168°-170° C.

reactant | benzhydryl 3-chloro-7-phenylacetamido-3-cephem-4-carboxylate | 1.038 g | ClC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C2NC(CC2=CC=CC=C2)=O)=O | C28H23ClN2O4S
reactant | water | O | H2O
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | zinc | 3.9 g | [Zn] | Zn
product | benzhydryl 7-phenylacetamido-3-cephem-4-carboxylate | 865 mg | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C28H24N2O4S
